US06579880B2
Preparation of 1-Chloro-3-[4-Methylpiperazin-1yl]Propane
N-Methyl piperazine (0.2 mol) and 1-bromo-3-chloropropane (0.1 mol) in toluene (100 mL) were heated at 80° C. for 3 hr. The precipitate was collected and the remaining filtrate extracted with HCl (1N, 2×50 mL). The aqueous layer was made basic with NaOH (1N) and extracted with ether (3×100 mL). The combined ether layers were washed with water, dried (MgSO4), filtered and evaporated to afford product as a pale yellow oil.

reactant | N-Methyl piperazine | 0.2 mol | CN1CCNCC1 | C5H12N2
reactant | 1-bromo-3-chloropropane | 0.1 mol | BrCCCCl | C3H6BrCl
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Chloro-3-[4-Methylpiperazin-1yl]Propane | ClCCCN1CCN(CC1)C | C8H17ClN2
